* c:\users\sabarishmohan\esim-workspace\sn74aup1g58_test\sn74aup1g58_test.cir

.include SN74AUP1G58.sub
x1 net-_u3-pad4_ net-_u3-pad5_ net-_u4-pad1_ net-_u3-pad6_ SN74AUP1G58
v1  a gnd pulse(0 5 0 0 0 5 10)
v2  b gnd pulse(0 5 0 0 0 2 4)
v3 net-_u3-pad1_ gnd  dc 0
* u3  net-_u3-pad1_ a b net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ adc_bridge_3
* u4  net-_u4-pad1_ out dac_bridge_1
* u1  a plot_v1
* u2  b plot_v1
* u5  out plot_v1
a1 [net-_u3-pad1_ a b ] [net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ ] u3
a2 [net-_u4-pad1_ ] [out ] u4
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 250e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(b)
plot v(out)
.endc
.end
